Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of well-controlled HIV, thrombocytopenia, urinary
retention due to neurogenic bladder, dyslipidemia and
cardiomyopathy (EF 30%) who presents to ED for fevers. He is
retired and lives in ___, ___, however previously
lived in the ___ area, and has been in town visiting a friend
and following up/getting second opinions on his medical issues.
He came a few weeks ago to ___, and last ___ went to stay
with a friend in ___ (___). He has been doing
some light hiking. He started to have shaking chills and fevers
last ___ (5 days prior to presentation here) and went to 
the
local ED there at ___ (affiliated with
___. He was found to be in a fib with RVR, which was a new
diagnosis, and admitted for fever work-up and heart rate 
control.

During that hospital stay, echo showed improved EF to 50%
(previously ___. He was given dilt but became hypotensive,
then switched to metop for rate control. Not started on
anticoagulation due to low platelets and risk of bleeding.
Work-up as to infectious cause of fever was notable for positive
urinalysis and urine culture that grew >100,000 CFU of e coli,
and he was started on CTX and eventually discharged on
cefpodoxime to complete 5-day course for presumed UTI. Blood
cultures were negative, as were basic tick-borne panel including
Lyme Western blot, babesia serology and anaplasma/ehrlichia PCR.
He continued to have fevers over the next ___ days, therefore
re-presented to our ED.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

Upon arrival to floor, patient is initially febrile to 102 and
shaking, however after getting Tylenol because afebrile and
feeling better. He denies any nuchal rigidity, headache, blurry
vision, photophbia, confusion, conjunctivitis, URI symptoms, new
cough (has chronic dry cough which he thinks is due to ACE-I but
no production), abdominal pain, diarrhea, constipation, dysuria,
rash, joint swelling. 

His only international travel was to ___, ___ in
___. He did not have any apparent illnesses during or
just after this trip. Otherwise has only been in the ___ area
and ___.
 
Past Medical History:
HIV INFECTION    
ATRIAL FIBRILLATION/FLUTTER                                      
      
ANAL DYSPLASIA                                                   
  
CARDIOMYOPATHY                                                  
HYPERLIPIDEMIA                                                  
S/P VASECTOMY                                                   
URINARY RETENTION                                               
BURSITIS                                                        
SCIATICA                                                        
CORONARY ARTERY DISEASE                                         
DEGENERATIVE DISC DISEASE                                       
H/O ALCOHOL ABUSE                                               
H/O SYPHILIS  (Restricted Display per ___                  
H/O GONORRHEA  (Restricted Display per ___                 
H/O CHLAMYDIA  (Restricted Display per ___                 
H/O DEPRESSION
 
Social History:
___
Family History:
Alcohol abuse - mother
___ cancer - mother
___ disease" - father

 
Physical ___:
ADMISSION EXAM:
VITALS: ___ Temp: 102.0 Axillary BP: 143/86 L Lying 
HR:
94 RR: 20 O2 sat: 96% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no joint swelling noted
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: easy WOB, CTAB
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no joint swelling noted
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 11:00AM   WBC-8.4 RBC-4.93 HGB-15.6 HCT-44.9 MCV-91 
MCH-31.6 MCHC-34.7 RDW-14.6 RDWSD-47.7*
___ 11:00AM   NEUTS-87.4* LYMPHS-7.1* MONOS-4.2* EOS-0.1* 
BASOS-0.4 NUC RBCS-0.4* IM ___ AbsNeut-7.36* AbsLymp-0.60* 
AbsMono-0.35 AbsEos-0.01* AbsBaso-0.03
___ 11:00AM   PLT COUNT-41*
___ 11:00AM   GLUCOSE-100 UREA N-15 CREAT-1.5* SODIUM-135 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-21* ANION GAP-12
___ 12:38PM   ALBUMIN-3.3* CALCIUM-8.3* PHOSPHATE-3.0 
MAGNESIUM-1.6
___ 11:10AM   LACTATE-1.2
___ 12:38PM   cTropnT-<0.01
___ 12:38PM   LIPASE-18
___ 12:38PM   ALT(SGPT)-21 AST(SGOT)-17 ALK PHOS-74 TOT 
BILI-2.3* DIR BILI-0.3 INDIR BIL-2.0

INTERVAL DATA:
___ 05:05AM BLOOD Plt Smr-RARE* Plt Ct-19*
___ 06:32AM BLOOD Plt Smr-RARE* Plt Ct-13*
___ 04:55PM BLOOD Plt Ct-18*
___ 05:05AM BLOOD ___
___ 10:20AM BLOOD Parst S-POSITIVE FOR ANAPLASMA
___ 06:32AM BLOOD Hapto-234*
___ 05:05AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS*
___ 05:05AM BLOOD HCV Ab-NEG

RUQUS:
IMPRESSION:  
1. No evidence of cholelithiasis, choledocholithiasis or acute 
cholecystitis. 
2. Mild splenomegaly. 

CXR:
IMPRESSION:  
Mild left base atelectasis/scarring, in linear configuration.  
Otherwise, no acute cardiopulmonary process seen. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with PMHx of 
well-controlled HIV, thrombocytopenia, urinary retention due to 
neurogenic bladder, dyslipidemia and cardiomyopathy (EF 30%) who 
presented to the ED with fevers and malaise, found to have 
morulae on blood parasite smear consistent with acute 
anaplasmosis infection.

# Probable Anaplasmosis infection:
# Fevers:
Blood smear positive for anaplasmosis as most likely etiology of 
fever. He was started on doxycycline with a plan to complete a 
10-day course through ___. While in the hospital, he was also 
continued on antibiotics to treat a complicated UTI diagnosed 
the week prior to this admission. He completed a total 7d course 
of antibiotics, switched to ciprofloxacin during this hospital 
stay due to concerns that cephalosporins can cause 
thrombocytopenia.

# Acute on chronic thrombocytopenia:
Thrombocytopenia known since ___ (pt says as low as 25) and 
initially thought to be ___ irbesartan, which was discontinued. 
Thrombocytopenia has persisted and was acutely worse this 
hospitalization with a nadir of 19.  Thrombocytopenia suspected 
to be worsened in setting of acute infection vs. side effect of 
cephalosporins started 1 week PTA to treat UTI.  Hematology was 
consulted.  He was transfused 1 unit of platelets.  With 
treatment of the anaplasma infection and/or switch to 
ciprofloxacin for UTI treatment, platelets improved to his 
baseline (40s) at the time of discharge.  He was continued on 
home prednisone 10 mg daily (started for possible ITP in 
outpatient setting).  He will follow-up with our Hematologists 
for further monitoring and treatment.  

# Acute kidney injury:
Cr 1.5 at admission, from 0.90 at ___ last week. Presumed 
pre-renal. Improved with gentle IVF.

# Neurogenic bladder:
Stable. Patient self-catheterizes. Urologist is at ___.

# HIV:
Last CD4 in our system was 521 with undetectable viral load. 
Follows with Dr. ___. Continued home ARVs.  Reepeat HIV 
viral load and CD4 count were pending at the time of discharge.

# CAD:
# Chronic systolic CHF (EF previously ___, presumed 
ischemic:
Prior cardiac cath in ___ (do not have results). Had nuc 
stress test in ___ which showed fixed defect consistent with 
prior infarct.  He is not on ASA d/t low plt, risk of bleeding.  
Continued home pravastatin, metoprolol.  Home enalapril was held 
in the setting ___ and infection.

# Atrial fibrillation/flutter:
New diagnosis last week at ___.  Likely provoked by acute 
infection and fevers. Currently well rate-controlled on 
metoprolol. Not on AC due to low platelets. 

# Anal dysplasia: 
ASCUS on recent pap ___. Plan for HRA at ___ while
in ___.

TRANSITIONAL ISSUES:
[] HIV viral load, CD4 count sent with results pending at time 
of discharge
[] Anaplasma PCR and babesia PCR sent, with results pending at 
discharge
[] Consider initiation of anticoagulation for newly diagnosed 
atrial fibrillation if platelet counts improve (not started on 
AC due to thrombocytopenia)

> 30 minutes spent in discharge planning and counseling
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. Enalapril Maleate 2.5 mg PO QHS 
3. ClonazePAM 0.5 mg PO QHS:PRN insomnia 
4. Metoprolol Tartrate 25 mg PO BID 
5. Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY 
6. Pravastatin 20 mg PO QPM 
7. d-mannose 1 unknown oral ASDIR 
8. Vitamin D ___ UNIT PO DAILY 
9. Cefpodoxime Proxetil 200 mg PO Q12H 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth q12 hours 
Disp #*14 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Tartrate 12.5 mg PO BID  
4.  Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY  
5.  ClonazePAM 0.5 mg PO QHS:PRN insomnia  
6.  d-mannose 1 unknown oral ASDIR  
7.  Enalapril Maleate 2.5 mg PO QHS  
8.  Pravastatin 20 mg PO QPM  
9.  PredniSONE 10 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anaplasmosis
Urinary tract infection
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for fevers and found to have 
blood test that was positive for anaplasma infection. You were 
started on doxycycline, which is the treatment of choice for 
this infection. You will continue this for a total 10-day course 
(last day ___.

You also had very low platelets, which has been an ongoing issue 
for you, however they were lower than usual, which is likely due 
to the infection. You were given a platelet transfusion. We 
recommend that you keep your outpatient appointment with 
hematology to get them re-checked and for further work-up.

The dose of blood pressure and heart rate control medication 
called metoprolol was decreased.  Please take ___ tablet (12.5 
mg) twice per day.

You were started on a medication to protect the stomach lining 
while you are taking steroids (PREDnisone).  The 
stomach-protecting medication is called PANtoprazole.  Please 
take pantoprazole daily while you are on steroids.

It was a pleasure taking care of you!

Sincerely, your ___ Team
 
Followup Instructions:
___